US07323475B2
d) ({4-Hydroxy-7-[4-(toluene-4-sulfonylamino)-phenoxy]-isoquinoline-3-carbonyl}-amino)-acetic acid
To a solution of 1.85 ml of 0.5 M sodium methoxide in methanol was added 42 mg of 4-Hydroxy-7-[4-(toluene-4-sulfonylamino)-phenoxy]-isoquinoline-3-carboxylic acid butyl ester and 70 mg of glycine. The resultant mixture was heated at reflux temperature for 24 hours and then cooled to room temperature. The reaction was poured into a 0.2 N HCl aqueous solution and then extracted three times with ethyl acetate. The organic fractions were dried over anhydrous sodium sulfate and concentrated to 41 mg of a white solid; MS (+): m/z 508.10 (M+1).

reactant | sodium methoxide | 0.5 M, 1.85 ml | C[O-].[Na+]
reactant | 4-Hydroxy-7-[4-(toluene-4-sulfonylamino)-phenoxy]-isoquinoline-3-carboxylic acid butyl ester | 42 mg | C(CCC)OC(=O)C=1N=CC2=CC(=CC=C2C1O)OC1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C | C27H26N2O6S
reactant | glycine | 70 mg | NCC(=O)O | C2H5NO2
reactant | HCl | 0.2 N | Cl | ClH
solvent | methanol | CO | CH4O
product | ({4-Hydroxy-7-[4-(toluene-4-sulfonylamino)-phenoxy]-isoquinoline-3-carbonyl}-amino)-acetic acid | OC1=C(N=CC2=CC(=CC=C12)OC1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C)C(=O)NCC(=O)O | C25H21N3O7S
